US06596878B2
M39: (E)-3-(3-Hydroxy-4-nitrophenyl)-2-[(3-phenyl-n-propyl)aminocarbonyl]acrylonitrile
M-39 was prepared with 3-hydroxy-4-nitro benzaldehyde and N-3-phenyl-n-propyl cyanoacetamide under similar conditions as described for M28.

reactant | 3-hydroxy-4-nitro benzaldehyde | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
reactant | N-3-phenyl-n-propyl cyanoacetamide | C1(=CC=CC=C1)CCCNC(CC#N)=O | C12H14N2O
product | (E)-3-(3-Hydroxy-4-nitrophenyl)-2-[(3-phenyl-n-propyl)aminocarbonyl]acrylonitrile | OC=1C=C(C=CC1[N+](=O)[O-])/C=C(\C#N)/C(=O)NCCCC1=CC=CC=C1 | C19H17N3O4
